US07465748B2
An aqueous sodium carbonate solution and tetrakis triphenylphosphine palladium were added to a DME solution of 3-bromothiophene and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline, and the mixture was refluxed under heating for 6 hours with argon atmosphere. After cooling to room temperature, the reaction mixture was added with ethyl acetate and water to separate an organic layer, which was then washed and dried. The solvent was evaporated under reduced pressure. The resulting crude product was purified by silica gel column chromatography, to obtain 4-(3-thienyl)aniline (pale yellow solid). Electron Impact-MS (M)+: 175.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | COCCOC | C4H10O2
reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-thienyl)aniline | S1C=C(C=C1)C1=CC=C(N)C=C1 | C10H9NS
